US04657898
2',3',5'-Tri-O-acetyl-N6 -(2,2-diphenylethyl)adenosine
N6 -(2,2-Diphenylethyl)adenosine (4.6 g, 0.01 mole) and acetic anhydride (2.9 mL, 306 mol %) are mixed in pyridine at room tempreature under nitrogen for 20 hours, and the reaction is evaporated in vacuo. The residue is dissolved in chloroform, washed twice with aqueous ice-cold 5% sodium carbonate, and the organic layer is dried (MgSO4) and evaporated in vacuo. Chromatography over silica gel eluting with 5/1 chloroform/methanol affords the title compound after evaporation in vacuo of appropriate fractions; mp 75°-80° C.

reactant | N6 -(2,2-Diphenylethyl)adenosine | 0.01 mole, 4.6 g | C1(=CC=CC=C1)C(CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1)C1=CC=CC=C1 | C24H25N5O4
reactant | acetic anhydride | 2.9 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2',3',5'-Tri-O-acetyl-N6 -(2,2-diphenylethyl)adenosine | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)COC(C)=O)N1C=NC=2C(NCC(C3=CC=CC=C3)C3=CC=CC=C3)=NC=NC12 | C30H31N5O7
